US04620865
A solution of 2.6 g of 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid and 2.4 g of carbonyldiimidazole in 50 ml DMF was stirred at room temperature for 30 minutes. Five milliliters of 70% aqueous ethylamine was next added to the solution and the mixture was stirred for an additional two hours at room temperature. The reaction mixture was poured into ice water and the precipitated solid was collected by filtration. The solid was recrystallized from ethanol to afford 1.0 g of 5-bromo-1-phenyl-N-ethyl-1H-pyrazole-4-carboxamide. Yield 34%. mp=158°-160° C.

reactant | 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid | 2.6 g | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C10H7BrN2O2
reactant | carbonyldiimidazole | 2.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethylamine | Five milliliters | C(C)N | C2H7N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1-phenyl-N-ethyl-1H-pyrazole-4-carboxamide | 1.0 g, Yield 34% | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)NCC | C12H12BrN3O
